US06268444B1
Preparation of (3-(methylphenylamino)-1H-indenyl)lithium, (70).
N-Methyl-N-phenyl-1H-inden-3-amine(6.8g, 30.7 mmol) was dissolved in 100 mL of hexane and 10 12.3 mL of 2.5 M n-BuLi (0.936 eq) was added dropwise via syringe over a 15 minute period. The solution developed a yellow precipitate upon the addition of n-BuLi and the slurry was allowed to stir overnight. After this time the solid was filtered, washed with 50 mL of hexane and allowed to dry in Vacuo overnight to afford the desired anion as a yellow-orange solid (5.83 g, 25.6 mmol) in 89 percent yield based upon the lithio reagent.

reactant | N-Methyl-N-phenyl-1H-inden-3-amine | 30.7 mmol, 6.8g | CN(C1=CCC2=CC=CC=C12)C1=CC=CC=C1 | C16H15N
reactant | n-BuLi | 2.5 M, 0.936 eq | [Li]CCCC
solvent | hexane | 100 mL | CCCCCC | C6H14
product | (3-(methylphenylamino)-1H-indenyl)lithium | 25.6 mmol, 5.83 g, 89 percent yield | CN(C1=CC(C2=CC=CC=C12)[Li])C1=CC=CC=C1 | InChI=1S/C16H14N.Li/c1-17(14-8-3-2-4-9-14)16-12-11-13-7-5-6-10-15(13)16;/h2-12H,1H3;
